US07678815B2
5-(3-Hydroxymethyl-phenylamino)-2-methyl-thiazole-4-carboxylic acid (3-chloro-phenyl)-amide
A solution of 3-[4-(3-chloro-phenylcarbamoyl)-2-methyl-thiazol-5-ylamino]-benzoic acid methyl ester (0.02 g, 0.05 mmol) in THF (1.00 ml) was treated at room temperature with lithium aluminium hydride (0.008 g, 0.20 mmol) and stirred at room temperature for 30 min. The reaction mixture was quenched with a drop of 5N NaOH and sodium sulphate. The solids were filtered and the mother liquor evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate) to yield the title compound (0.02 g, 90%) as a light brown gum.

reactant | 3-[4-(3-chloro-phenylcarbamoyl)-2-methyl-thiazol-5-ylamino]-benzoic acid methyl ester | 0.05 mmol, 0.02 g | COC(C1=CC(=CC=C1)NC1=C(N=C(S1)C)C(NC1=CC(=CC=C1)Cl)=O)=O | C19H16ClN3O3S
reactant | lithium aluminium hydride | 0.20 mmol, 0.008 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1.00 ml | C1CCOC1 | C4H8O
product | 5-(3-Hydroxymethyl-phenylamino)-2-methyl-thiazole-4-carboxylic acid (3-chloro-phenyl)-amide | 0.02 g, 90% | ClC=1C=C(C=CC1)NC(=O)C=1N=C(SC1NC1=CC(=CC=C1)CO)C | C18H16ClN3O2S
